US07795262B2
Step 4. Preparation of 6-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-2-morpholin-4-yl-5,6,7,8-tetrahydropyrido[3,4-b]pyrazine
To a solution of 2-morpholin-4-yl-5,6,7,8-tetrahydropyrido[3,4-b]pyrazine (60 mg, 0.27 mmol) in acetonitrile (5 mL) is added NaI (50 mg, 0.333 mmol), K2CO3 (200 mg, 1.45 mmol) and 2-chloro-1-(4-cyclobutyl-piperazin-1-yl)-ethanone (100 mg, 0.463 mmol). The mixture is stirred overnight at rt. The mixture is diluted with DCM (25 mL) and filtered through Celite. The filtrate is concentrated and the residue is purified by PTLC eluting with EtOAc/MeOH/NEt3 (90:10:10) to yield the title compound. 1H NMR (300 MHz, CDCl3) δ 7.90 (1H, s), 3.85 (2H, m), 3.72 (4H, m), 3.63-3.60 (4H, m), 3.50 (2H, t), 3.40 (2H, s), 2.92-2.87 (3H, m), 2.74-2.69 (2H, m), 2.51 (2H, t), 2.34-2.26 (4H, m), 2.09-1.67 (m, 6H); MS (+VE) m/z 401.26 (M++1).

reactant | 2-morpholin-4-yl-5,6,7,8-tetrahydropyrido[3,4-b]pyrazine | 0.27 mmol, 60 mg | N1(CCOCC1)C=1N=C2C(=NC1)CNCC2 | C11H16N4O
reactant | NaI | 0.333 mmol, 50 mg | [Na+].[I-]
reactant | K2CO3 | 1.45 mmol, 200 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-1-(4-cyclobutyl-piperazin-1-yl)-ethanone | 0.463 mmol, 100 mg | ClCC(=O)N1CCN(CC1)C1CCC1 | C10H17ClN2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 6-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-2-morpholin-4-yl-5,6,7,8-tetrahydropyrido[3,4-b]pyrazine | C1(CCC1)N1CCN(CC1)C(CN1CC2=NC=C(N=C2CC1)N1CCOCC1)=O | C21H32N6O2
